US05206235
Step A: 2-Bromo-4-iodotoluene
A well stirred solution of 18.6 g (0.10 mol) of 3-bromo-p-toluidine in 80 mL of 6N HCl at 0° C. was treated with a solution of 7.35 g (0.11 mol) of sodium nitrite in 15 mL of water at a rate that maintained the temperature <10° C. The mixture was stirred for 45 minutes then cautiously treated with 33.2 g (0.20 mol) of potassium iodide at 0° C. The mixture was treated with 300 mL of ether and washed (3×) with saturated aqueous sodium bisulfite. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue was redissolved in 50 mL of hexane, filtered through 30 g of silica and concentrated under vacuum to afford 15.6 g (0.053 mol,53%) of the product which was determined to be 65% pure by 1H NMR. 1H NMR (200 MHz,CDCl3): 2.33 (s,3H), 6.97 (d,8 Hz,1H), 7.51 (dd;2,8 Hz,1H), 7.86 (d,2 Hz,1H).

reactant | 3-bromo-p-toluidine | 0.10 mol, 18.6 g | BrC=1C=C(N)C=CC1C | C7H8BrN
reactant | sodium nitrite | 0.11 mol, 7.35 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.20 mol, 33.2 g | [I-].[K+]
reactant | ether | 300 mL | CCOCC | C4H10O
solvent | HCl | 6N, 80 mL | Cl | ClH
solvent | water | 15 mL | O | H2O
product | 2-Bromo-4-iodotoluene | 0.053 mol, 15.6 g, 53% | BrC1=C(C=CC(=C1)I)C | C7H6BrI
